US09101616B2
Step-2: 1-methyl-6-(trifluoromethyl)-1H-indazole-3-carboxylic acid
To a tetrahydrofuran (2 mL) of methyl 1-methyl-6-(trifluoromethyl)-1H-indazole-3-carboxylate (50 mg, 0.19 mmol) was added 2N sodium hydroxide (0.2 ml, 4.0 mmol) at room temperature. The mixture was refluxed at 90° C. with stirring for 3 hours. After being cooled to room temperature, 2N hydrochloric acid was added to the mixture until pH became 4.0. The organic layer was extracted with ethyl acetate, washed with brine, and dried over magnesium sulfate. After the filtration to separate solvent and magnesium sulfate, the solvent was removed under reduced pressure to give 47 mg (quantitative yield) of the title as a white solid that was used in the next step without further purification;

reactant | methyl 1-methyl-6-(trifluoromethyl)-1H-indazole-3-carboxylate | 0.19 mmol, 50 mg | CN1N=C(C2=CC=C(C=C12)C(F)(F)F)C(=O)OC | C11H9F3N2O2
reactant | sodium hydroxide | 4.0 mmol, 2N, 0.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-methyl-6-(trifluoromethyl)-1H-indazole-3-carboxylic acid | quantitative yield | CN1N=C(C2=CC=C(C=C12)C(F)(F)F)C(=O)O | C10H7F3N2O2
